US08168668B2
6) N-[(1S)-1-(4-hydroxyphenyl)ethyl]-2-(7-nitro-1H-benzimidazol-1-yl)acetamide
The title compound was synthesised according to the general method of synthesis of target compounds (see below) from (7-nitro-1H-benzimidazol-1-yl)acetic acid and 4-[(1S)-1-aminoethyl]phenol. 1H NMR (400 MHz, DMSO-d6) δ ppm 9.26 (s, 1 H) 8.55 (d, J=8.03 Hz, 1 H) 8.40 (s, 1 H) 8.10 (d, J=8.03 Hz, 1 H) 7.98 (d, J=7.53 Hz, 1 H) 7.39 (t, J=8.03 Hz, 1 H) 7.05-7.15 (m, 2 H) 6.64-6.75 (m, 2 H) 5.19 (s, 2 H) 4.71-4.83 (m, 1 H) 1.32 (d, J=6.78 Hz, 3 H). MS (ESI) m/z: 341 [M+H]

reactant | (7-nitro-1H-benzimidazol-1-yl)acetic acid | [N+](=O)([O-])C1=CC=CC2=C1N(C=N2)CC(=O)O | C9H7N3O4
reactant | 4-[(1S)-1-aminoethyl]phenol | N[C@@H](C)C1=CC=C(C=C1)O | C8H11NO
product | N-[(1S)-1-(4-hydroxyphenyl)ethyl]-2-(7-nitro-1H-benzimidazol-1-yl)acetamide | OC1=CC=C(C=C1)[C@H](C)NC(CN1C=NC2=C1C(=CC=C2)[N+](=O)[O-])=O | C17H16N4O4
